US04851419
2-(5-Amino-1H-benzimidazol-2-yl sulphinyl)-N,N-dimethyl benzenamine
2-(5-Nitro-1H-benzimidazol-2-yl sulphinyl)-N,N-dimethylbenzenamine (3 g) was suspended in ethanol (300 ml), and hydrogenated at 1 atmosphere at room temperature, using platinium oxide as catalyst, for 3 days.

reactant | 2-(5-Nitro-1H-benzimidazol-2-yl sulphinyl)-N,N-dimethylbenzenamine | 3 g | [N+](=O)([O-])C1=CC2=C(NC(=N2)S(=O)C2=C(C=CC=C2)N(C)C)C=C1 | C15H14N4O3S
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinium oxide | O=[Pt]=O
product | 2-(5-Amino-1H-benzimidazol-2-yl sulphinyl)-N,N-dimethyl benzenamine | NC1=CC2=C(NC(=N2)S(=O)C2=C(C=CC=C2)N(C)C)C=C1 | C15H16N4OS
